* OVERALL BEST CANDIDATE: 00_Phase_1_14V_Alternator_to_5V_Buck_g1_cand2_b9
* FITNESS SCORE: 0.9596
*
* Generated: 2026-06-04T17:02:57
* Constraint: Phase 1: 14V Alternator to 5V (Buck)
*   vin_min = 12
*   vin_max = 16
*   vout_target = 5
*   efficiency_target = 0.79
*   power_in = 20
* Candidate: 2 of 12
* Grouped name: g1_cand2
*
* 12V to 5V Buck Converter
Vin in 0 12
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 100u
Rload out 0 1.22
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
