* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_5
* Fitness: 0.9909
*
* --- Active Constraints ---
* _comment: Phase 1: 14V Alternator to 5V (Buck)
* vin_min: 12
* vin_max: 16
* vout_target: 5
* efficiency_target: 0.79
* power_in: 20
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 5.092065
* efficiency: 0.873698
* total_volume_cm3: 28.065700
* total_components: 4
* ============================

* 14V to 5V Buck Converter
Vin in 0 14
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 100u
Rload out 0 0.5
Vgate gate sw PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end